*   Library of Advanced Linear Devices, Inc. Opamp Models
*
*   $Revision:   1.6  $
*   $Author:   ANW  $
*   $Date:   12 Jan 1995 15:05:18  $

* -----------------------------------------------------------------------------

*   Copyright 2002 Advanced Linear Devices, Inc.
*   Neither this library nor any part may be copied without the express
*   written consent of Advanced Linear Devices, Inc.
*   PSPICE version
* -----------------------------------------------------------------------------
*
* This library of macromodels is being supplied to users as an aid to circuit
* design. While it reflects reasonably close similarity to the actual device
* in terms of performance, it is not suggested as a replacement for bread-
* boarding. Simulation should be used as a forerunner or a supplement to
* traditional lab testing.
*
* Users should very carefully note the following factors regarding these
* models:
*
*     Model performance in general will reflect typical baseline specs for a
*     given device, and certain aspects of performance may not be modeled
*     fully.
*
*     While reasonable care has been taken in their preparation, we cannot be
*     responsible for correct application on any and all computer systems.
*
*     In all cases, the current data sheet information for a given real device
*     is your final design guideline, and is the only actual performance
*     guarantee.  For further technical information, refer to individual device
*     data sheets.
*
*     Model users are hereby notified that these models are supplied "as is",
*     with no direct or implied responsibility on the part of Advanced Linear
*     Devices for their operation within a customer circuit or system. Further,
*     ALD reserves the right to change these models without prior notice.
*
*     The macromodels listed in this library represent typical operational
*     amplifier characteristics, without offset (Vos) adjustment, or other
*     parameters that would allow for Monte Carlo simulation of these circuits.
*
*     Advanced Linear Devices provides a separate library of ASIC standard cell
*     functions such as operational amplifiers, timers, and comparators as well
*     as resistors, capacitors, and individual transistors and diodes for func-
*     tion specific integrated circuit design. This ASIC verification library
*     contains a comprehensive set of parametric values to be used in Monte
*     Carlo simulation of user designed integrated circuits. Contact your
*     Advanced Linear Devices representative for more information.
* -----------------------------------------------------------------------------
*
* Your feedback and suggestions on these (and future) models will be
* appreciated.
*
*
* Advanced Linear Devices, Inc.
* Customer Support Group
* 1180F Miraloma Way
* Sunnyvale, California. 94086-4606
* Tel: (408) 720-8737
* Fax: (408) 720-8297
* -----------------------------------------------------------------------------
*
*
*$
* 1701 operational amplifier "macromodel" subcircuit
* Created by Advanced Linear Devices 1/16/91.
*
* connections:      non-inverting input
*                   | inverting input
*                   | | positive power supply
*                   | | | negative power supply
*                   | | | | output
*                   | | | | |
.subckt ald1701/AL  1 2 3 4 5
*
  c1   11 12 4.5E-12
  c2    6  7 15.00E-12
  d13   1  3 dx
  d41   4  1 dx
  d23   2  3 dx
  d32   4  2 dx
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dy
  dln  92 90 dy
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 40E3 -40E3 40E3 40E3 -40E3
  ga    6  0 11 12 500.0E-6
  gcm   0  6 10 10x 4.4E-9
  iss   3 10 dc 1.40E-6
  isx   3 10x dc .70E-6
  hlim 90  0 vlim 1K
  m1   11   2 10  3x  mx
  m2   12   1 10  3x mx
  m3   12x 99 10x 3x mx
  r2    6  9 100.0E3
  rd1   4 11  15.E3
  rd2   4 12  15.E3
  rd3   4 12x 15.E3
  ro1   8  5 200
  ro2   7 99 145E3
  rp    3  4 20.0E3
  vb    9  0 dc 0
  vc    3 53 dc 75.00E-3
  ve   54  4 dc 75.00E-3
  vlim  7  8 dc 0
  vlp  91  0 dc 1
  vln   0 92 dc 1
  vx   3x  3 dc .98
.model dx D(Is=1.0E-15 cjo=.3p)
.model dy D(Is=1.0E-15 n=.1)
.model mx pmos (level=1 vto=-.82 KP=45E-6 cgbo=9e-9 gamma=0)
.ends
*$
*
* 1702 operational amplifier "macromodel" subcircuits
* Created by Advanced Linear Devices 1/16/91.
*
* connections:      non-inverting input
*                   |  inverting input
*                   |  |  positive power supply
*                   |  |  |  negative power supply
*                   |  |  |  |  output
*                   |  |  |  |  |
.subckt ald1702/AL  1  2  3  4  5
*
  c1   11 12 1.7E-12
  c2    6  7 27.27E-12
  d13   1  3 dx
  d41   4  1 dx
  d23   2  3 dx
  d32   4  2 dx
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dy
  dln  92 90 dy
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 37.7E3 -50E3 50E3 50E3 -50E3
  ga    6  0 11 12 872E-6
  gcm   0  6 10 10x 19E-9
  iss   3 10 dc  5.0E-6
  isx   3 10x dc 2.5E-6
  hlim 90  0 vlim .1k
  m1   11   2 10  3x  mx
  m2   12   1 10  3x mx
  m3   12x 99 10x 3x mx
  r2    6  9  100E3
  rd1   4 11  13.35E3
  rd2   4 12  13.35E3
  rd3   4 12x 13.35E3
  ro1   8  5  1.0E2
  ro2   7 99  43.0E3
  rp    3  4  4.54E3
  vb    9  0 dc 0.0
  vc    3 53 dc 90.00E-3
  ve   54  4 dc 90.00E-3
  vlim  7  8 dc 0
  vlp  91  0 dc 0.8
  vln   0 92 dc 0.8
  vx   3x  3 dc 1.03
.model dx D(Is=1.0E-15 cjo=.3p)
.model dy D(Is=1.0E-15 n=.1)
.model mx pmos (level=1 vto=-.85 KP=116E-6 cgbo=9.0e-9 gamma=0)
.ends
*$
*
* 1703 operational amplifier "macromodel" subcircuits
* Created by Advanced Linear Devices 1/16/91.
*
* connections:       non-inverting input
*                    |  inverting input
*                    |  |  positive power supply
*                    |  |  |  negative power supply
*                    |  |  |  |  output
*                    |  |  |  |  |
.subckt ald1703/AL   1  2  3  4  5
*
  c1   11 12 1.7E-12
  c2    6  7 27.27E-12
  d13   1  3 dx
  d41   4  1 dx
  d23   2  3 dx
  d32   4  2 dx
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dy
  dln  92 90 dy
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 37.7E3 -50E3 50E3 50E3 -50E3
  ga    6  0 11 12 872E-6
  gcm   0  6 10 10x 18E-9
  iss   3 10 dc  5.0E-6
  isx   3 10x dc 2.5E-6
  hlim 90  0 vlim .1k
  m1   11   2 10  3x mx
  m2   12   1 10  3x mx
  m3   12x 99 10x 3x mx
  r2    6  9  100E3
  rd1   4 11  13.35E3
  rd2   4 12  13.35E3
  rd3   4 12x 13.35E3
  ro1   8  5  1.0E2
  ro2   7 99  43.0E3
  rp    3  4  4.54E3
  vb    9  0 dc 0.0
  vc    3 53 dc 90.00E-3
  ve   54  4 dc 90.00E-3
  vlim  7  8 dc 0
  vlp  91  0 dc 0.8
  vln   0 92 dc 0.8
  vx   3x  3 dc -.7
.model dx D(Is=1.0E-15 cjo=.3p)
.model dy D(Is=1.0E-15 n=.1)
.model mx pmos (level=1 vto=+.25 KP=116E-6 cgbo=9.0e-9 gamma=0)
.ends
*$
*
* 1704 operational amplifier "macromodel" subcircuit
* Created by Advanced Linear Devices 1/16/91.
*
* connections:       non-inverting input
*                    | inverting input
*                    | | positive power supply
*                    | | | negative power supply
*                    | | | | output
*                    | | | | |
.subckt ald1704/AL   1 2 3 4 5
*
  c1   11 12 1.5E-12
  c2    6  7 30.E-12
  d13   1  3 dx
  d41   4  1 dx
  d23   2  3 dx
  d32   4  2 dx
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dy
  dln  92 90 dy
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 88E3 -50E3 50E3 50E3 -50E3
  ga    6  0 11 12 1200E-6
  gcm   0  6 10 10x 50E-9
  iss   3 10 dc  15.E-6
  isx   3 10x dc 7.5E-6
  hlim 90  0 vlim .1k
  m1   11   2 10  3x  mx
  m2   12   1 10  3x mx
  m3   12x 99 10x 3x mx
  r2    6  9  100E3
  rd1   4 11  13.35E3
  rd2   4 12  13.35E3
  rd3   4 12x 13.35E3
  ro1   8  5  3.3E1
  ro2   7 99  4.46E3
  rp    3  4  4.54E3
  vb    9  0 dc 0.0
  vc    3 53 dc 90.00E-3
  ve   54  4 dc 90.00E-3
  vlim  7  8 dc 0
  vlp  91  0 dc 0.8
  vln   0 92 dc 0.8
  vx   3x  3 dc 1.03
.model dx D(Is=1.0E-15 cjo=.3p)
.model dy D(Is=1.0E-15 n=.1)
.model mx pmos (level=1 vto=-.85 KP=116E-6 cgbo=9.0e-9 gamma=0)
.ends
*$
*
* 1706 operational amplifier "macromodel" subcircuit
* Created by Advanced Linear Devices 1/16/91.
*
* connections:      non-inverting input
*                   | inverting input
*                   | | positive power supply
*                   | | | negative power supply
*                   | | | | output
*                   | | | | |
.subckt ald1706/AL  1 2 3 4 5
*
  c1   11 12 15.3E-12
  c2    6  7 10.90E-12
  d13   1  3 dx
  d41   4  1 dx
  d23   2  3 dx
  d32   4  2 dx
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dy
  dln  92 90 dy
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 125E3 -40E3 40E3 40E3 -40E3
  ga    6  0 11 12 500E-6
  gcm   0  6 10 10x 2.04E-9
  iss   3 10  dc .34E-6
  isx   3 10x dc .17E-6
  hlim 90  0 vlim 10K
  m1   11   2 10  3x mx
  m2   12   1 10  3x mx
  m3   12x 99 10x 3x mx
  r2    6  9 100.0E3
  rd1   4 11  15.E3
  rd2   4 12  15.E3
  rd3   4 12x 15.E3
  ro1   8  5 200
  ro2   7 99 47.1E3
  rp    3  4 250E3
  vb    9  0 dc 0
  vc    3 53 dc 156E-3
  ve   54  4 dc 156E-3
  vlim  7  8 dc 0
  vlp  91  0 dc 2
  vln   0 92 dc 2
  vx   3x  3 dc .98
.model dx D(Is=1.0E-15 cjo=.3p)
.model dy D(Is=1.0E-15 n=.1)
.model mx pmos (level=1 vto=-.81 KP=45E-6 cgbo=9e-9 gamma=0)
.ends
*
*$

* 1701 operational amplifier "macromodel" subcircuits
* Created by Advanced Linear Devices 1/16/91.
*
*   4701/pb/db/sf
*
.subckt ald4701/pb/AL 1 2 3 4 5 6 7 8 9 10 11 12 13 14
x1  3  2  4 11  1 ald1701/AL
x2  5  6  4 11  7 ald1701/AL
x3 10  9  4 11  8 ald1701/AL
x4 12 13  4 11 14 ald1701/AL
.ends
*$
*
.subckt ald4701/db/AL 1 2 3 4 5 6 7 8 9 10 11 12 13 14
x1  3  2  4 11  1 ald1701/AL
x2  5  6  4 11  7 ald1701/AL
x3 10  9  4 11  8 ald1701/AL
x4 12 13  4 11 14 ald1701/AL
.ends
*$
*
.subckt ald4701/sf/AL 1 3 5 6 8 10 12 13 15 17 19 20 22 24
x1  5  3  6 19  1 ald1701/AL
x2  8 10  6 19 12 ald1701/AL
x3 17 15  6 19 13 ald1701/AL
x4 20 22  6 19 24 ald1701/AL
.ends
*$
*     device pins: . . . . .  .  .  .
.subckt ald2701/sb/AL 1 2 4 6 7 10 11 12
x1  2  1 11  4 12 ald1701/AL
x2  6  7 11  4 10 ald1701/AL
.ends
*$
*     device pins: . . . . . . . .
.subckt ald2701/sa/AL 1 2 3 4 5 6 7 8
x1  3  2  8  4  1 ald1701/AL
x2  5  6  8  4  7 ald1701/AL
.ends
*$
*     device pins: . . . . . . . .
.subckt ald2701/pa/AL 1 2 3 4 5 6 7 8
x1  3  2  8  4  1 ald1701/AL
x2  5  6  8  4  7 ald1701/AL
.ends
*$
*     device pins: . . . . . . . .
.subckt ald2701/da/AL 1 2 3 4 5 6 7 8
x1  3  2  8  4  1 ald1701/AL
x2  5  6  8  4  7 ald1701/AL
.ends
*$
*     device pins: . . . . .
.subckt ald1701/pa/AL 2 3 4 6 7
x1  3  2  7  4  6  ald1701/AL
.ends
*$
*     device pins: . . . . .
.subckt ald1701/da/AL 2 3 4 6 7
x1  3  2  7  4  6  ald1701/AL
.ends
*$
*     device pins: . . . . .
.subckt ald1701/sa/AL 2 3 4 6 7
x1  3  2  7  4  6  ald1701/AL
.ends
*$
*
* 1702 operational amplifier "macromodel" subcircuits
* Created by Advanced Linear Devices 1/16/91.
*
.subckt ald1702/da/AL 2 3 4 6 7
x1  3 2 7 4 6 ald1702/Al
.ends
*$
*
.subckt ald1702/pa/AL 2 3 4 6 7
x1  3 2 7 4 6 ald1702/Al
.ends
*$
*
.subckt ald1702/sa/AL 2 3 4 6 7
x1  3 2 7 4 6 ald1702/AL
.ends
*$
*
* 1703 operational amplifier "macromodel" subcircuits
* Created by Advanced Linear Devices 1/16/91.
*
.subckt ald1703/pa/AL 2 3 4 6 7
x1  3 2 7 4 6 ald1703/Al
.ends
*$
*
.subckt ald1703/sa/AL 2 3 4 6 7
x1  3 2 7 4 6 ald1703/AL
.ends
*$
*
.subckt ald1703/da/AL 2 3 4 6 7
x1  3 2 7 4 6 ald1703/AL
.ends
*$
*
* 1704 operational amplifier "macromodel" subcircuit
* Created by Advanced Linear Devices 1/16/91.
*
.subckt ald1704/da/AL 2 3 4 6 7
x1 3 2 7 4 6 ald1704/Al
.ends
*$
*
.subckt ald1704/pa/AL 2 3 4 6 7
x1 3 2 7 4 6 ald1704/AL
.ends
*$
*
.subckt ald1704/sa/AL 2 3 4 6 7
x1 3 2 7 4 6 ald1704/AL
.ends
*$
*
* 1706 operational amplifier "macromodel" subcircuit
* Created by Advanced Linear Devices 1/16/91.
*
* ald4706/pb/db/sf
.subckt ald4706/pb/AL 1 2 3 4 5 6 7 8 9 10 11 12 13 14
x1  3  2  4 11  1 ald1706/AL
x2  5  6  4 11  7 ald1706/AL
x3 10  9  4 11  8 ald1706/AL
x4 12 13  4 11 14 ald1706/AL
.ends
*$
*
.subckt ald4706/db/AL 1 2 3 4 5 6 7 8 9 10 11 12 13 14
x1  3  2  4 11  1 ald1706/AL
x2  5  6  4 11  7 ald1706/AL
x3 10  9  4 11  8 ald1706/AL
x4 12 13  4 11 14 ald1706/AL
.ends
*$
*
.subckt ald4706/sf/AL 1 3 5 6 8 10 12 13 15 17 19 20 22 24
x1  5  3  6 19  1 ald1706/AL
x2  8 10  6 19 12 ald1706/AL
x3 17 15  6 19 13 ald1706/AL
x4 20 22  6 19 24 ald1706/AL
.ends
*$
*
.subckt ald2706/da/AL 1 2 3 4 5 6 7 8
x1 3 2 8 4 1 ald1706/AL
x2 5 6 8 4 7 ald1706/AL
.ends
*$
*
.subckt ald2706/pa/AL 1 2 3 4 5 6 7 8
x1 3 2 8 4 1 ald1706/AL
x2 5 6 8 4 7 ald1706/AL
.ends
*$
*
.subckt ald2706/sa/AL 1 2 3 4 5 6 7 8
x1 3 2 8 4 1 ald1706/AL
x2 5 6 8 4 7 ald1706/AL
.ends
*$
*
.subckt ald2706/sb/AL 1 2 4 6 7 10 11 12
x1 2 1 11 4 12 ald1706/AL
x2 6 7 11 4 10 ald1706/AL
.ends
*$
*
.subckt ald1706/da/AL 3 2 7 4 6
x1 3 2 7 4 6 ald1706/AL
.ends
*$
*
.subckt ald1706/pa/AL 3 2 7 4 6
x1 3 2 7 4 6 ald1706/AL
.ends
*$
*
.subckt ald1706/sa/AL 3 2 7 4 6
x1 3 2 7 4 6 ald1706/AL
.ends
*$
